US07816526B2
Synthesis of 6-isopropyl-2-methylimidazo[1,2-b]pyridazine
3-Amino-6-isopropylpyridazine (0.41 g, 2.99 mmol) and bromoacetone (0.53 g, 3.10 mmol) were mixed with acetonitrile (5.0 ml) and heated for 6 hours under reflux. After the reaction was completed, water (20.0 ml) was poured into the reaction solution and adjusted to pH 9 with 20% aqueous sodium hydroxide solution. The reaction solution was extracted twice with ethyl acetate, and the extracts were combined, dried over anhydrous sodium sulfate and concentrated. The residues were purified by silica gel column chromatography (ethyl acetate:chloroform=1:1) to give the title compound as brown oil. The yield was 0.30 g (57.2%).

reactant | 3-Amino-6-isopropylpyridazine | 2.99 mmol, 0.41 g | NC=1N=NC(=CC1)C(C)C | C7H11N3
reactant | bromoacetone | 3.10 mmol, 0.53 g | BrCC(C)=O | C3H5BrO
reactant | acetonitrile | 5.0 ml | C(C)#N | C2H3N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 20.0 ml | O | H2O
product | 6-isopropyl-2-methylimidazo[1,2-b]pyridazine | C(C)(C)C=1C=CC=2N(N1)C=C(N2)C | C10H13N3
